US06881589B1
Activation of Ouabain:
60.4 mg of ouabain octahydrate (Aldrich Cat# 14,193-3) in 6 mL of deionized (di) H2O (wrapped in foil) was mixed with 87 mg of sodium metaperiodate (Mallinckrodt Cat# 1139) and the mixture was incubated at room temperature for 2 hours, rotating. The reaction was terminated by passing the reaction mixture through Dowex 1×8−50 ion exchange resin (Aldrich Cat# 21,740-9) with diH2O. 200 μL 1M sodium phosphate pH 7.2 was added to adjust the pH of the solution to 7.0.

reactant | ouabain octahydrate | 60.4 mg | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@H]2C[C@H]([C@@]3([C@@H]4[C@@H](CC[C@@]3(C2)O)[C@]5(CC[C@@H]([C@]5(C[C@H]4O)C)C6=CC(=O)OC6)O)CO)O)O)O)O.O.O.O.O.O.O.O.O
reactant | sodium metaperiodate | 87 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | H2O | O | H2O
product | Ouabain | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@H]2C[C@H]([C@@]3([C@@H]4[C@@H](CC[C@@]3(C2)O)[C@]5(CC[C@@H]([C@]5(C[C@H]4O)C)C6=CC(=O)OC6)O)CO)O)O)O)O | C29H44O12
